US05866576
A mixture of theobromine (2.16 g, 12 mmol) and sodium hydride (288 mg, 12 mequivalents) in dimethylsufoxide (10 mL) was stirred for 30 minutes and then a solution of 1-methansulfonyloxy-4-hexene in dimethylsulfoxide (10 mL) was added. After 84 hours of stirring, water (70 mL) is added and the mixture extracted with ether (3×50 mL). The combined extracts were washed with water (50 mL) and dried over magnesium sulfate. The solvent was then evaporated under vacuum. The residue was purified by flash chromatography (22 g silica gel using an ethyl acetate eluant, 500 mL), yielding 2.1 g (67%) 1-(4-hexenyl)-3,7-dimethylxanthine. To a solution of 1-(4-hexenyl)-3,7-dimethylxanthine (270 mg, 1.03 mmol) in dichloromethane (10 mL) was added saturated aqueous sodium bicarbonate solution (10 mL), followed by a solution of 50-60% 3-chloroperoxybenzoic acid (889 mg, 2.58 mmol) in dichloromethane (5 mL) over 1 minute. After 20 hours of stirring, 20% aqueous sodium metabisulfite solution (15 mL) was added over 1 minute. The mixture was then extracted with dichloromethane (3×15 mL). The combined extracts were washed with saturated aqueous sodium bicarbonate solution (3×20 mL) and dried over magnesium sulfate. The sovent was evaporated under vacuum. The residue was purified by flash chromatography using 14 g of silica gel and eluting with ethyl acetate (100 ml) followed by 8% methanol-dichloromethane (60 mL), yielding 80 mg (28% yield) of 1-(4,5-oxohexyl)-3,7-dimethylxanthine as a white powder.

reactant | theobromine | 12 mmol, 2.16 g | N1C(=O)N(C)C=2N=CN(C)C2C1=O | C7H8N4O2
reactant | sodium hydride | 288 mg | [H-].[Na+]
reactant | 1-methansulfonyloxy-4-hexene | CS(=O)(=O)OCCCC=CC | C7H14O3S
reactant | water | 70 mL | O | H2O
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
product | 1-(4-hexenyl)-3,7-dimethylxanthine | 2.1 g, 67% | C(CCC=CC)N1C(=O)N(C=2N=CN(C2C1=O)C)C | C13H18N4O2
